US05028607
Ethyl 2-acetyl-4-(4-[bis(4-fluorophenyl)methylene]piperidino}butyrate
0.182 mol of ethyl acetoacetate is added at 0° C. to a suspension containing 0.182 mol of sodium hydride in 800 ml c.f tetrahydrofuran. The reaction medium is maintained for one hour at 20° C. and 0.182 mol of sodium iodide is then added. The mixture is cooled to 0° C. and 0.182 mol of 4-[bis(4-fluorophenyl)methylene]-1-(chloroethyl)piperidine is added. The mixture is brought to reflux for 12 hours and then concentrated under vacuum. The residue is taken up in water and the product is extracted with dichloromethane. The oil obtained is purified by chromatography on a column of 70-230 mesh silica, eluting with a mixture of dichloromethane and methanol (99:1 V/V).

reactant | ethyl acetoacetate | 0.182 mol | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydride | 0.182 mol | [H-].[Na+]
reactant | sodium iodide | 0.182 mol | [I-].[Na+]
reactant | 4-[bis(4-fluorophenyl)methylene]-1-(chloroethyl)piperidine | 0.182 mol | FC1=CC=C(C=C1)C(=C1CCN(CC1)CCCl)C1=CC=C(C=C1)F | C20H20ClF2N
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | Ethyl 2-acetyl-4-(4-[bis(4-fluorophenyl)methylene]piperidino}butyrate | C(C)(=O)C(C(=O)OCC)CCN1CCC(CC1)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C26H29F2NO3
